US07160887B1
A mixture of tert-butyl 3-[5-chloro-2-(3,4-dichlorobenzylamino)phenoxy]benzylcarbamate (2.79 g, 5.5 mmols), ethylsuccinyl chloride (1.2 ml, 8.3 mmols), 4-dimethylaminopyridine (1.01 g, 8.3 mmols) and tetrahydrofuran (30 ml) was stirred at room temperature for 1 hour, and then at 60° C. for 3 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with brine, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography to give an oil of ethyl N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl)succinamate (3.34 g, 95.7%).

reactant | tert-butyl 3-[5-chloro-2-(3,4-dichlorobenzylamino)phenoxy]benzylcarbamate | 5.5 mmols, 2.79 g | ClC=1C=CC(=C(OC=2C=C(CNC(OC(C)(C)C)=O)C=CC2)C1)NCC1=CC(=C(C=C1)Cl)Cl | C25H25Cl3N2O3
reactant | ethylsuccinyl chloride | 8.3 mmols, 1.2 ml | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 8.3 mmols, 1.01 g | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl N-[2-[3-(tert-butoxycarbonylaminomethyl)phenoxy]-4-chlorophenyl]-N-(3,4-dichlorobenzyl)succinamate | 3.34 g, 95.7% | C(C)(C)(C)OC(=O)NCC=1C=C(OC2=C(C=CC(=C2)Cl)N(C(CCC(=O)OCC)=O)CC2=CC(=C(C=C2)Cl)Cl)C=CC1 | C31H33Cl3N2O6
